US05686622
The process is performed in a similar manner to that described in Example 1, but starting with 0.34 g of tert-butyl (2S,4S,5R)-3-(2-aminoacetyl)-5-methoxycarbonyl-4-(2-fluorophenyl)-2-thiazolidinecarboxylate dissolved in 10 ml of tetrahydrofuran and 106 μl of 3-methylphenyl isocyanate. The crude product is purified by chromatography on silica [eluent: ethyl acetate/cyclohexane (20/80 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. After beating in diisopropyl ether, 0.17 g of tert-butyl (2S,4S,5R)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-(2-fluorophenyl)-2-thiazolidinecarboxylate is thus obtained in the form of a pale yellow foam, Rf=0.30, [ethyl/acetate cyclohexane (30/70 by volume); 1H NMR (250 MHz, (CD3)2SO, at a temperature of 363 K, δ in ppm): 1.53 (s, 9H: CH3 of the tert-butyl); 2.27 (s, 3H: ARCH3); 3.34 (s, 3H: COOCH3); from 3.60 to 3.80 and 4.06 (mt and dd respectively (J=17 and 5 Hz), 1H each: COCH2N); 4.33 (d, J=3 Hz, 1H: H at C5 of the ring); 5.74 (mt, 1H: H at C2 of the ring); 6.01 (d, J=3 Hz, 1H: H at C4 of the ring); 6.23 (t, J=5 Hz, 1H NHCO); 6.78 (broad d, J=7.5 Hz, 1H: aromatic H (H ortho to the CH3)); 7.09 (t, J=7.5 Hz, 1H: aromatic H (H meta to the CH3)); from 7.10 to 7.50 (mt, 5H: aromatic H); 8.03 (mt, 1H: aromatic H (H meta to the F)); 8.40 (s, 1H: ArNHCO).

reactant | tert-butyl (2S,4S,5R)-3-(2-aminoacetyl)-5-methoxycarbonyl-4-(2-fluorophenyl)-2-thiazolidinecarboxylate | 0.34 g | NCC(=O)N1[C@@H](S[C@H]([C@@H]1C1=C(C=CC=C1)F)C(=O)OC)C(=O)OC(C)(C)C | C18H23FN2O5S
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | 3-methylphenyl isocyanate | 106 μl | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl (2S,4S,5R)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-(2-fluorophenyl)-2-thiazolidinecarboxylate | 0.17 g | COC(=O)[C@H]1[C@@H](N([C@@H](S1)C(=O)OC(C)(C)C)C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=C(C=CC=C1)F | C26H30FN3O6S
